US06486325B1
Acetic acid 2-[5-methoxy-2-(2,2,2-trifluoro-1-hydroxy-1-methyl-ethyl)-phenyl]-ethyl ester
To the crude reaction mixture described in example 2 containing a solution of acetic acid 2-[5-methoxy-2-(2,2,2-trifluoro-1-methyl-1-trimethylsilanyloxy-ethyl)-phenyl]-ethyl ester was added tetrabutylammonium fluoride (52.9 mL of a 1.0M solution in tetrahydrofuran, 52.9 mmol). The reaction mixture was stirred one hour after which GC/MS and HPLC analysis showed no starting material. For characterization purposes, the reaction mixture was poured into water and extracted with methyl tert-butyl ether (75 mL). The organic layer was washed with water (75 mL) and brine (50 mL), dried over magnesium sulfate, filtered and concentrated to provide a crude oil. 1H NMR (400 MHz, CDCl3) δ1.82 (s, 3), 2.01 (s, 3), 2.98-3.06 (m, 2), 3.55 (dt, 1, J=13.7, 6.8), 3.79 (s, 3), 4.27-4.34 (m, 2), 6.73-6.77 (m, 2), 7.28 (d, 1, J=8.5). 13C NMR (100 MHz, CDCl3) δ20.92, 25.50, 34.16, 55.10, 66.49, 76.67 (q, J=30.3), 111.55, 118.25, 126.02 (q, J=286), 128.67, 129.56, 139.70, 159.20, 171.32. IR 3453, 1720, 1610, 1249, 1161, 1134, 1038 cm−1. Analysis calculated for C14H17F3O4: C, 54.90; H, 5.59. Found: C, 55.03; H, 5.85.

reactant | acetic acid 2-[5-methoxy-2-(2,2,2-trifluoro-1-methyl-1-trimethylsilanyloxy-ethyl)-phenyl]-ethyl ester | COC=1C=CC(=C(C1)CCOC(C)=O)C(C(F)(F)F)(O[Si](C)(C)C)C | C17H25F3O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Acetic acid 2-[5-methoxy-2-(2,2,2-trifluoro-1-hydroxy-1-methyl-ethyl)-phenyl]-ethyl ester | COC=1C=CC(=C(C1)CCOC(C)=O)C(C(F)(F)F)(C)O | C14H17F3O4
